US05750778
Preparation of methyl 2-hydroxymethyl-2,3,3,3-tetrafluoropropanoate
Methyl 2,3,3,3-tetrafluoropropanoate (27.0 g) was dissolved in dry dichloromethane and the solution stirred under a dry nitrogen atmosphere at 0° C. A one molar solution of di-n-butylboron trifluoromethanesulfonate in dichloromethane (190 ml) was added in portions over 15 minutes. After a further 15 minutes, the temperature was reduced to -10° C. and di-isopropylethylamine (35 ml) was added in portions, then stirring was continued for a further 2 hours. Paraformaldehyde (100 g) (previously dried under vacuum over P2 O5) was heated to 180°-200° C. and the resulting formaldehyde was passed into the reaction mixture in a stream of dry nitrogen, keeping the temperature close to -10° C. After 30 minutes, the mixture was poured into a mixture of 30% aqueous hydrogen peroxide (150 ml) pH7 phosphate buffer (600 ml) and crushed ice, and was stirred at 0° C. for 45 minutes. The mixture was extracted with dichloromethane (3×200 ml). The combined extracts were washed with sodium disulphite solution, dried (MgSO4) and concentrated under reduced pressure to leave a yellow oil, which was redissolved in ethyl acetate and filtered through a thick plug of silica gel, and then was again concentrated under reduced pressure. The crude product was purified by chromatography on silica, eluting with 25% ethyl acetate in hexane. Subsequent heating to 65° C. under aspirator vacuum (20 mmHg) gave the product as a yellow oil (4.8 g); 1H NMR (270 MHz; CDCl3) δ 3.93(3H,s), 4.05-4.30(2H,m), 2.80(1H,bt) ppm.

reactant | Methyl 2,3,3,3-tetrafluoropropanoate | 27.0 g | FC(C(=O)OC)C(F)(F)F | C4H4F4O2
reactant | di-n-butylboron trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.C(CCC)[B+]CCCC
reactant | di-isopropylethylamine | 35 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
product | methyl 2-hydroxymethyl-2,3,3,3-tetrafluoropropanoate | 4.8 g | OCC(C(=O)OC)(C(F)(F)F)F | C5H6F4O3
